US04540787
A solution of 148.6 g. of 6-methoxy-1,2,3,4-tetrahydroquinoline and 58 g. of propionaldehyde in 275 ml. of ethanol was hydrogenated at 60 psi over 15 g. of 15% palladium on carbon at room temperature for 2 hours and then at 50° C. overnight. The catalyst was removed by filtration and the filtrate concentrated to give a brown oil which was distilled to give 100.5 g. of 6-methoxy-1-n-propyl-1,2,3,4-tetrahydroquinoline (54% yield) as an oil boiling in the range 115°-128° C. at 0.02 Torr.

reactant | 6-methoxy-1,2,3,4-tetrahydroquinoline | COC=1C=C2CCCNC2=CC1 | C10H13NO
reactant | propionaldehyde | C(CC)=O | C3H6O
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 6-methoxy-1-n-propyl-1,2,3,4-tetrahydroquinoline | 54% yield | COC=1C=C2CCCN(C2=CC1)CCC | C13H19NO
